US05019574
3-Bromo-4-nitroquinoline-N-oxide (10 g, 0.037 mol) was dissolved in tetrahydrofuran (100 ml). To the solution, ethylamine (5.96 g, 70% in H2O) was added and the mixture was stirred at room temperature for 1 hour. Tetrahydrofuran was distilled off under vacuum from the whole reaction mixture and the residue was dissolved in chloroform. The chloroform layer was washed with water and dried with anhydrous sodium sulfate. Upon isolation and purification by chromatography on a silica gel column using chloroform as a developing solvent, 3-ethylamino-4-nitroquinoline-N-oxide was obtained in an amount of 5.4 g (yield, 62%).

reactant | 3-Bromo-4-nitroquinoline-N-oxide | 0.037 mol, 10 g | BrC=1C=[N+](C2=CC=CC=C2C1[N+](=O)[O-])[O-] | C9H5BrN2O3
reactant | ethylamine | 5.96 g | C(C)N | C2H7N
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 3-ethylamino-4-nitroquinoline-N-oxide | C(C)NC=1C=[N+](C2=CC=CC=C2C1[N+](=O)[O-])[O-] | C11H11N3O3
